US08912188B2
To a solution of (S)-methyl 3-(3-methylmorpholino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (200 mg, crude) in dichloromethane (30 mL) was added pyridine (79 mg, 2.64 mmol). Then Tf2O (372 mg, 1.32 mmol) was added and stirred overnight at room temperature. The reaction was then quenched by the addition of ice-water (100 mL) and extracted with dichloromethane (3×15 mL), the organic layers combined and dried over anhydrous magnesium sulfate and concentrated in vacuo to afford (S)-methyl 3-(3-methylmorpholino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (250 mg, crude).

reactant | (S)-methyl 3-(3-methylmorpholino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 200 mg | C[C@H]1COCCN1C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C15H17N3O4
reactant | pyridine | 2.64 mmol, 79 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 1.32 mmol, 372 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-methyl 3-(3-methylmorpholino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | C[C@H]1COCCN1C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C16H16F3N3O6S
